US05244908
Synthesis of 5-[3-(chloro)propylthio]imidazo[1,2-a]pyridine
To a suspension of 5-mercaptoimidazo[1,2-a]pyridine (5.02 g, 33.4 mmoles) and 1-bromo-3-chloropropane (5.26 g, 33.4 mmoles) in ethanol (100 ml) was added triethylamine (4.66 ml, 33.4 mmoles) and the mixture was stirred at room temperature for 17 hours. After the solvent was distilled off, chloroform was added to the residue, which was washed with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate) to obtain 5.46 g of the desired product (72.0%, light brown oily product).

reactant | 5-mercaptoimidazo[1,2-a]pyridine | 33.4 mmoles, 5.02 g | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | 1-bromo-3-chloropropane | 33.4 mmoles, 5.26 g | BrCCCCl | C3H6BrCl
reactant | triethylamine | 33.4 mmoles, 4.66 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-[3-(chloro)propylthio]imidazo[1,2-a]pyridine | 5.46 g, 72.0% | ClCCCSC1=CC=CC=2N1C=CN2 | C10H11ClN2S
